US08217027B2
A 250 ml three-necked round-bottomed flask equipped with temperature probe and nitrogen bubbler was charged with 1M Borane/THF solution (60.4 ml, 60.4 m mol) and a solution of (3-Methoxy-phenoxy)-acetic acid (5.00 g, 27.4 mmol) in THF (2.0 ml) was added dropwise, maintaining reaction temperature below 30° C. The reaction was allowed to stir at room temperature overnight. The reaction was quenched by dropwise addition of methanol (20 ml) maintaining the reaction temperature below 35° C. The reaction was stirred at room temperature for 4 hours and concentrated under reduced pressure to yield 2-(3-Methoxy-phenoxy)-ethanol (4.51 g, 98%) as a clear oil which was used without further purification.

reactant | Borane THF | 1M, 60.4 ml | B.C1CCOC1
reactant | (3-Methoxy-phenoxy)-acetic acid | 27.4 mmol, 5.00 g | COC=1C=C(OCC(=O)O)C=CC1 | C9H10O4
solvent | THF | 2.0 ml | C1CCOC1 | C4H8O
product | 2-(3-Methoxy-phenoxy)-ethanol | 4.51 g, 98% | COC=1C=C(OCCO)C=CC1 | C9H12O3
